US07645771B2
Preparation of 2-chloro-4-fluoro-5-[(methylamino)sulfonyl]benzoic acid
20.02 g (73.4 mmol) of 2-chloro-3-chlorosulfonyl-4-fluorobenzoic acid was added as a solid to a cooled solution of 10.5 mL of methylamine (40% aqueous solution, 293.6 mmol) in 400 mL of water. Reaction was monitored by LC/MS and complete after one hour. The reaction was acidified to pH=1 with concentrated HCl, and solid precipitated out. Product was obtained by filtration. 17.54 g obtained as a pale tan solid (89% yield). 1H NMR (300 MHz, DMSO-d6) δ13.83-14.01 (br, 1H), 8.21-8.26 (d, 1H, J=9.11 Hz), 7.98-8.03 (q, 1H, J=4.82), 7.88-7.92 (d, 1H, J=9.11 Hz), 2.55-2.56 (d, 3H, J=4.82 Hz).

reactant | 2-chloro-3-chlorosulfonyl-4-fluorobenzoic acid | 73.4 mmol, 20.02 g | ClC1=C(C(=O)O)C=CC(=C1S(=O)(=O)Cl)F | C7H3Cl2FO4S
reactant | methylamine | 293.6 mmol, 10.5 mL | CN | CH5N
reactant | HCl | Cl | ClH
solvent | water | 400 mL | O | H2O
product | 2-chloro-4-fluoro-5-[(methylamino)sulfonyl]benzoic acid | 89% yield | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC | C8H7ClFNO4S
